US09315458B2
K) 3-chloro-2-ethenyl-4-methoxy-5-[4-(1H-pyrazol-1-yl)benzyl]benzoic acid
To a solution of methyl 3-chloro-2-ethenyl-4-methoxy-5-[4-(1H-pyrazol-1-yl)benzyl]benzoate (0.10 g) in THF (3.00 mL)-water (3.00 mL) and methanol (0.50 mL) was added lithium hydroxide monohydrate (0.10 g), and the mixture was stirred at 20° C. for 16 hr. The reaction mixture was poured into 1N hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (0.08 g).

reactant | methyl 3-chloro-2-ethenyl-4-methoxy-5-[4-(1H-pyrazol-1-yl)benzyl]benzoate | 0.10 g | ClC=1C(=C(C(=O)OC)C=C(C1OC)CC1=CC=C(C=C1)N1N=CC=C1)C=C | C21H19ClN2O3
reactant | water | 3.00 mL | O | H2O
reactant | lithium hydroxide monohydrate | 0.10 g | O.[OH-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 3.00 mL | C1CCOC1 | C4H8O
solvent | methanol | 0.50 mL | CO | CH4O
product | 3-chloro-2-ethenyl-4-methoxy-5-[4-(1H-pyrazol-1-yl)benzyl]benzoic acid | 0.08 g | ClC=1C(=C(C(=O)O)C=C(C1OC)CC1=CC=C(C=C1)N1N=CC=C1)C=C | C20H17ClN2O3
